US07427612B2
2-[4-(2-Morpholin-4-yl-5-nitro-benzoyl)-piperazin-1-yl]-5-trifluoromethyl-benzonitrile
The title compound was prepared according to the procedure described for example 46 from 2-Piperazin-1-yl-5-trifluoromethyl-benzonitrile and 2-Morpholin-4-yl-5-nitro-benzoyl chloride (69%, yellow solid, MS (m/e): 490.2 (M+H, 100%)

reactant | 2-Piperazin-1-yl-5-trifluoromethyl-benzonitrile | N1(CCNCC1)C1=C(C#N)C=C(C=C1)C(F)(F)F | C12H12F3N3
reactant | 2-Morpholin-4-yl-5-nitro-benzoyl chloride | N1(CCOCC1)C1=C(C(=O)Cl)C=C(C=C1)[N+](=O)[O-] | C11H11ClN2O4
product | 2-[4-(2-Morpholin-4-yl-5-nitro-benzoyl)-piperazin-1-yl]-5-trifluoromethyl-benzonitrile | N1(CCOCC1)C1=C(C(=O)N2CCN(CC2)C2=C(C#N)C=C(C=C2)C(F)(F)F)C=C(C=C1)[N+](=O)[O-] | C23H22F3N5O4
